US08012277B2
Synthesis of Bis(guanidinium) Malonate
Malonic acid (1.00 g, 9.61 mmol) was dissolved in 30 ml of distilled water. Guanidine carbonate (1.73 g, 9.61 mmol) was added via syringe at room temperature (carbon dioxide gas was evolved) and the reaction was stirred at room temperature for 24 hours. The water was removed in vacuo with heating to approximately 90° C. for 4 hours. The product was isolated as a white solid.

reactant | Malonic acid | 9.61 mmol, 1.00 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | Guanidine carbonate | 9.61 mmol, 1.73 g | C(O)(O)=O.NC(=N)N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 30 ml | O | H2O
product | Bis(guanidinium) Malonate | C(CC(=O)[O-])(=O)[O-].NC(=[NH2+])N.NC(=[NH2+])N | InChI=1S/C3H4O4.2CH5N3/c4-2(5)1-3(6)7;2*2-1(3)4/h1H2,(H,4,5)(H,6,7);2*(H5,2,3,4)
